US08648103B2
(a) 5-Amino-2-butylpyrazol-3-carboxylic acid ethyl ester
Sodium hydride (920 mg, 21 mmol) was added to a solution of 5-aminopyrazol-3-carboxylic acid ethyl ester (3.10 g, 20 mmol) in acetonitrile (100 mL) under a nitrogen atmosphere, and the obtained mixture was then stirred at room temperature for 30 minutes. The reaction solution was cooled on ice, and butyl iodide (2.3 mL, 20 mmol) was then added thereto. The obtained mixture was stirred at room temperature for 1 hour, and then at 60° C. for 1 hour. The reaction solution was left at room temperature overnight. Thereafter, the solvent was distilled away, and water was then added to the residue, followed by extraction with ethyl acetate. The organic layer was washed with water and a saturated saline, and it was dried over sodium sulfate and was then concentrated. The residue was purified by silica gel column chromatography (hexane/ethyl acetate), so as to obtain the title compound (1.60 g, yield: 38%) in the form of a pale yellow oily substance.

reactant | Sodium hydride | 21 mmol, 920 mg | [H-].[Na+]
reactant | 5-aminopyrazol-3-carboxylic acid ethyl ester | 20 mmol, 3.10 g | C(C)OC(=O)C1=NNC(=C1)N | C6H9N3O2
reactant | butyl iodide | 20 mmol, 2.3 mL | C(CCC)I | C4H9I
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
product | 5-Amino-2-butylpyrazol-3-carboxylic acid ethyl ester | 1.60 g, yield: 38% | C(C)OC(=O)C=1N(N=C(C1)N)CCCC | C10H17N3O2
